US04273623
The reaction mixture formed by the acid-decomposition contains not only resorcin, acetone and the inert solvent used but also various by-products, for example, carbinols such as m-isopropyl-α,α-dimethylbenzyl alcohol, m-acetyl-α,α-dimethylbenzyl alcohol and m-hydroxy-α,α-dimethylbenzyl alcohol, olefins such as m-isopropenylphenol, m-isopropenylacetophenone and m-isopropenylcumene, peroxides which are estimated to have been formed by condensation reaction between carbinols or olefins and hydroperoxides, m-isopropylphenol, m-hydroxyacetophenone, and high-boiling-point condensates.

reactant | resorcin | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | m-isopropyl-α,α-dimethylbenzyl alcohol | C(C)(C)C=1C=C(C(C)(C)O)C=CC1 | C12H18O
reactant | m-acetyl-α,α-dimethylbenzyl alcohol | C(C)(=O)C=1C=C(C(C)(C)O)C=CC1 | C11H14O2
reactant | m-isopropenylphenol | C(=C)(C)C=1C=C(C=CC1)O | C9H10O
reactant | m-isopropenylacetophenone | C(=C)(C)C=1C=C(C=CC1)C(C)=O | C11H12O
reactant | m-isopropenylcumene | C(=C)(C)C=1C=C(C=CC1)C(C)C | C12H16
solvent | acetone | CC(=O)C | C3H6O
product | m-isopropylphenol | C(C)(C)C=1C=C(C=CC1)O | C9H12O
